US05605900
In 10 ml of 48% hydrobromic acid was dissolved 451.8 mg (1.24 mmol) of 8-chloro-3-(1-ethoxycarbonyl-4-piperidinyl) -1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline (Compound a) obtained in Reference Example 7, and the solution was heated under reflux for 1 hour. After the solvent was distilled off, ethanol was added to the residue, and the precipitated crystals were collected by filtration to give 119.5 mg of crude 8-chloro-1,2,3,4-tetrahydro-1-methyl-2,4-dioxo-3-(4-piperidinyl)quinazoline hydrobromide. The crude product was dissolved in 10 ml of DMF, and 65 mg (0.29 mmol) of 4-chloro-6,7-dimethoxyquinazoline and 122 mg (0.87 mmol) of potassium carbonate were added thereto, followed by heating at 120° C. for 2 hours. To the reaction mixture were added water and dilute hydrochloric acid for neutralization, and the mixture was extracted with chloroform. The organic layer was washed with an aqueous solution of sodium chloride and dried. The solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol=50/1). Ethyl acetate and ether were added to the product, and the precipitated crystals were collected by filtration and washed with ether to give 55.2 mg (yield: 8.9%) of Compound 15 as white crystals.

reactant | 8-chloro-3-(1-ethoxycarbonyl-4-piperidinyl) -1,2,3,4-tetrahydro-1-methyl-2,4-dioxoquinazoline | 1.24 mmol, 451.8 mg | ClC=1C=CC=C2C(N(C(N(C12)C)=O)C1CCN(CC1)C(=O)OCC)=O | C17H20ClN3O4
reactant | hydrobromic acid | 10 ml | Br | BrH
product | 8-chloro-1,2,3,4-tetrahydro-1-methyl-2,4-dioxo-3-(4-piperidinyl)quinazoline hydrobromide | 119.5 mg | Br.ClC=1C=CC=C2C(N(C(N(C12)C)=O)C1CCNCC1)=O | InChI=1S/C14H16ClN3O2.BrH/c1-17-12-10(3-2-4-11(12)15)13(19)18(14(17)20)9-5-7-16-8-6-9;/h2-4,9,16H,5-8H2,1H3;1H
